US05612360
5-(2-Cyanophenyl)-1-[1-(4-trifluoromethylphenyl)-1pentyl]indole (1.9 moles, 800 mg) was dissolved in 2.0 g of tributyltinazide and heated at 95° C. for 24 hours. The solution was cooled. Acetonitrile, water, and acetic acid (50 ml of 8:1:1) were added. The acetonitrile solution was washed with hexane, concentrated, diluted with ethyl acetate, washed with water, dried over sodium sulfate and concentrated. The product was chromatographed on silica gel eluted with ethyl acetate to yield 120 mg of 5-[2-tetrazol-5-yl)phenyl]-1-[1-(4- trifluoromethylphenyl)-1-pentyl]indole.

reactant | 5-(2-Cyanophenyl)-1-[1-(4-trifluoromethylphenyl)-1pentyl]indole | 1.9 moles, 800 mg | C(#N)C1=C(C=CC=C1)C=1C=C2C=CN(C2=CC1)C(CCCC)C1=CC=C(C=C1)C(F)(F)F | C27H23F3N2
reactant | Acetonitrile | C(C)#N | C2H3N
reactant | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-[1-(4- trifluoromethylphenyl)-1-pentyl]indole | FC(C1=CC=C(C=C1)C(CCCC)N1C=CC2=CC=CC=C12)(F)F | C20H20F3N
